data/mechanism_extracts/ChemAsianJ/10.1002_asia.202101033.json
{"doi": "10.1002_asia.202101033", "journal": "ChemAsianJ", "is_review": false, "rxn_class_summary": "Electrochemical oxidative selenocyclization of cinnamyl thioether benzimidazoles with diaryl diselenides to give trans-dihydro-benzoimidazo[1,3]thiazines via an anodic ionic (seleniranium) pathway", "mechanism_family": ["cation_initiated", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of diphenyl diselenide (PhSeSePh) to its radical cation, which fragments into PhSe+ (electrophile) and PhSe•; cathode reduces protons to H2 to balance charge", "key_intermediates": [{"name": "diphenyl diselenide radical cation (A)", "smiles": "[Se+]([Se]c1ccccc1)c1ccccc1", "role": "transient"}, {"name": "phenylselenyl cation (B)", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "phenylselenyl radical (C)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "selenolate (E)", "smiles": "[Se-]c1ccccc1", "role": "transient"}, {"name": "bridged seleniranium ion intermediate (F) on cinnamyl thioether", "smiles": null, "role": "reactive"}, {"name": "benzylic radical (G) from PhSe• addition to alkene", "smiles": null, "role": "off_pathway"}, {"name": "benzylic cation (H) from SET oxidation of G", "smiles": null, "role": "off_pathway"}, {"name": "loose 6-endo benzylic carbocation-like transition state (I)", "smiles": null, "role": "transient"}, {"name": "N-protonated dihydro-thiazine (J)", "smiles": null, "role": "transient"}, {"name": "thioallyl benzimidazole radical cation (K)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes PhSeSePh by one electron to a radical cation that fragments to PhSe+ and PhSe•; PhSe+ adds electrophilically to the cinnamyl alkene of 1a to form a bridged seleniranium ion, which undergoes 6-endo nucleophilic ring closure by the benzimidazole nitrogen through a loose SN1-like transition state; deprotonation gives 3aa while cathodic H+ reduction to H2 balances the charge.", "rate_determining_step": "6-endo nucleophilic annulation of the benzimidazole nitrogen onto the seleniranium ion via a loose benzylic-cation-like transition state", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "3aa still isolated in 85% yield under standard conditions with 2 equiv TEMPO, indicating radical pathway is not the major contributor"}, {"name": "Divided cell (anolyte 1a+2a)", "smiles": null, "purpose": "intermediate_trap", "observation": "Exclusive formation of 3aa (82%) when reactants kept only in anodic chamber, showing cathodic reduction is not required"}, {"name": "Divided cell (catholyte 1a+2a)", "smiles": null, "purpose": "intermediate_trap", "observation": "3aa not detected, ruling out a purely cathodic initiation"}, {"name": "H2O2 oxidative deselenation of 3aa", "smiles": "OO", "purpose": "other", "observation": "Syn-elimination to vinyl thiazine 6 (61%) supports trans-relative geometry of substituents in 3aa"}, {"name": "Cyclic voltammetry of 1a, 2a and mixture", "smiles": null, "purpose": "redox_probe", "observation": "Ep/2(1a)=1.26 V, Ep/2(2a)=1.29 V individually; mixture shows waves at 1.28 and 1.66 V; reduction of 2a at -1.18 V; supports anodic oxidation of 2a initiating the reaction"}, {"name": "Thiopropargyl benzimidazole 4", "smiles": null, "purpose": "other", "observation": "Annulation gives benzoimidazo[1,3]thiazine 5 in 92%, demonstrating generality of the selenocyclization"}], "evidence_types_used": ["intermediate_trap_TEMPO", "cyclic_voltammetry", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Authors explicitly disfavor two alternative pathways: (i) a radical pathway via PhSe• addition giving benzyl radical G, which would require SET oxidation to cation H and is ruled out by divided-cell experiments and TEMPO insensitivity; (ii) initial anodic oxidation of 1a to radical cation K followed by 5-exo radical annulation and selenylation, which would give the undetected 5-exo regioisomer 3aa'. Exclusive 6-endo trans-diastereoselectivity is rationalized by a loose, SN1-like benzylic cation transition state retaining stereospecificity of the seleniranium opening."}
